US09416132B2
To the solution of compound (4,4-difluorocyclohexyl)methanamine (100 mg, 6 mmol) and compound 6-chloro-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazine (190 mg, 6 mmol) in 3 mL DMSO was added DIEA (0.21 mL, 12 mmol) and 10 mg CsF, the solvent was stirred for 5 h at 120° C., Then the mixture was purified by HPLC to afford the compound N-((4,4-difluorocyclohexyl)methyl)-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazin-6-amine (21 mg, 10%) as a white solid.

reactant | (4,4-difluorocyclohexyl)methanamine | 6 mmol, 100 mg | FC1(CCC(CC1)CN)F | C7H13F2N
reactant | 6-chloro-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazine | 6 mmol, 190 mg | ClC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)OC(F)(F)F | C13H7ClF3N3O
reactant | DIEA | 12 mmol, 0.21 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | CsF | 10 mg | [F-].[Cs+]
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | N-((4,4-difluorocyclohexyl)methyl)-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazin-6-amine | 21 mg, 10% | FC1(CCC(CC1)CNC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)OC(F)(F)F)F | C20H19F5N4O
